US07205313B2
Following the procedures for Example 22, Step C, decahydroisoquinoline mesylate from preparation 3 (102 mg, 0.28 mmol) in acetone (0.5 mL), potassium carbonate solid (38 mg, 0.28 mmol, twice) and 2-mercaptobenzonitrile (38 mg, 0.286 mmol, twice) gave, after flash chromatography (hexanes-ethyl acetate 2:1), the desired product as an oil (64 mg) in 57% yield.

reactant | decahydroisoquinoline mesylate | S(C)(=O)(=O)O.C1NCCC2CCCCC12
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-mercaptobenzonitrile | SC1=C(C#N)C=CC=C1 | C7H5NS
